US07737149B2
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-5-(1-methyl-3,6-dihydro-2H -pyridin-4-yl)pyrazine-2-carboxamide
Trimethylaluminium (2M in toluene, 1.74 ml, 3.48 mmol) was added dropwise to a stirred suspension of 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine (343 mg, 1.39 mmol) and methyl 5-(1-methyl-3,6-dihydro-2H-pyridin-4-yl)pyrazine-2-carboxylate (324 mg, 1.39 mmol) in anhydrous toluene (6.94 ml) at ambient temperature. The resulting solution was then stirred at 60° C. for 18 h. The reaction mixture was quenched into methanol (100 mL) and treated with HCl (2M aqueous solution, to pH7 or lower) and purified by ion exchange chromatography, using a SCX column. The desired product was eluted from the column using 7M NH3/MeOH and evaporated to dryness to afford impure product. The crude product was purified by preparative HPLC, using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford the title compound (152 mg, 24%) as a white solid.

reactant | Trimethylaluminium | 3.48 mmol, 2M, 1.74 ml | C[Al](C)C
reactant | 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine | 1.39 mmol, 343 mg | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)N | C13H17N3O2
reactant | methyl 5-(1-methyl-3,6-dihydro-2H-pyridin-4-yl)pyrazine-2-carboxylate | 1.39 mmol, 324 mg | CN1CCC(=CC1)C=1N=CC(=NC1)C(=O)OC | C12H15N3O2
solvent | toluene | 6.94 ml | C1(=CC=CC=C1)C | C7H8
product | N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-5-(1-methyl-3,6-dihydro-2H -pyridin-4-yl)pyrazine-2-carboxamide | 152 mg, 24% | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(=O)C1=NC=C(N=C1)C=1CCN(CC1)C | C24H28N6O3
